US08372807B2
A mixture of 2-bromo-1-(naphthalen-1-yl)ethanone (1 g, 4.02 mmol), benzotriazole (530 mg, 4.42 mmol) and K2CO3 (560 mg, 4.02 mmol) in toluene (100 mL) was heated at reflux for 16 hours. The reaction was cooled to room temperature, washed with water, dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (100% DCM) afforded 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1-(naphthalen-1-yl)ethanone as a tan solid.

reactant | 2-bromo-1-(naphthalen-1-yl)ethanone | 4.02 mmol, 1 g | BrCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9BrO
reactant | benzotriazole | 4.42 mmol, 530 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | K2CO3 | 4.02 mmol, 560 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1-(naphthalen-1-yl)ethanone | N1(N=NC2=C1C=CC=C2)CC(=O)C2=CC=CC1=CC=CC=C21 | C18H13N3O
